US04179505
A mixture of 6.9 parts of 3,4-diaminobenzenemethanol, 8.3 parts of ethyl butanimidate hydrochloride and 80 parts of ethanol is stirred first for 2 hours at room temperature and further for 2 hours at reflux. The reaction mixture is evaporated and the residue is stirred in water. The whole is alkalized with ammonium hydroxide and the product is extracted with 4-methyl-2-pentanone. The extract is dried, filtered and evaporated, yielding 6.2 parts of 2-propyl-1H-benzimidazole-5-methanol as a residue.

reactant | 3,4-diaminobenzenemethanol | NC=1C=C(C=CC1N)CO | C7H10N2O
reactant | ethyl butanimidate hydrochloride | Cl.C(CCC)(OCC)=N
solvent | ethanol | C(C)O | C2H6O
product | 2-propyl-1H-benzimidazole-5-methanol | C(CC)C1=NC2=C(N1)C=CC(=C2)CO | C11H14N2O
